US05294713
WORKING EXAMPLE 36 4-L-Phenylalanyl-2-oxopiperazine-1-acetic acid benzyl ester hydrochloride
2-Oxopiperazine-1-acetic acid benzyl ester hydrochloride (2 g) and N-t-butoxycarbonyl-L-phenylalanine (5.6 g) were subjected to substantially the same procedure as in Working Example 21 to afford 1.5 g of the title compound as amorphous powder.

reactant | 2-Oxopiperazine-1-acetic acid benzyl ester hydrochloride | 2 g | Cl.C(C1=CC=CC=C1)OC(CN1C(CNCC1)=O)=O
reactant | N-t-butoxycarbonyl-L-phenylalanine | 5.6 g | C(C)(C)(C)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)O | C14H19NO4
product | 4-L-Phenylalanyl-2-oxopiperazine-1-acetic acid benzyl ester hydrochloride | 1.5 g | Cl.C(C1=CC=CC=C1)OC(CN1C(CN(CC1)C([C@@H](N)CC1=CC=CC=C1)=O)=O)=O | InChI=1S/C22H25N3O4.ClH/c23-19(13-17-7-3-1-4-8-17)22(28)25-12-11-24(20(26)14-25)15-21(27)29-16-18-9-5-2-6-10-18;/h1-10,19H,11-16,23H2;1H/t19-;/m0./s1
